US04103006
Pinoresinol-diglucoside - Silver oxide (2.24 g, 9.65 mmol) was added to a stirred reaction mixture of pinoresinol (358 mg, 1 mmol) and aceto-α bromo glucose (2.24 g, 5.45 mmol) in 6 ml of dry quinoline over a period of 15 min. After stirring the reaction mixture for 16 hours at 25° C., the reaction mixture was extracted with 20 ml of ether. The organic ethereal layer was successively washed with water (2 × 10 ml), 1 N HCl (5 × 5 ml), dilute NaHCO3 (3 × 5 ml) and dried over Na2SO4. After evaporation of the organic solvent in vacuo, the residue was dissolved in 20 ml of methanol containing 1 ml of 5 N NaOH and the mixture was stirred for 2 hours at 0° C. After acidification to pH 4.5 with 2N HCl, this mixture was evaporated to dryness. The residue was dissolved in 5 ml of water and chromatographed over an Amberlite XAD-2 column (1.9 × 38 cm). The column was washed with 150 ml of water to remove salts. The diglucoside was then eluted off the column with 250 ml of 20% aqueous acetone. The combined acetone fractions were evaporated to dryness and the residue was chromatographed over a silica-gel column (3.5 × 44 cm). Elution of the column with solvent system, CHCl3 :CH3OH:H2O (65:30:10) gave 230 mg (34%) of pure pinoresinol diglucoside, m.p. 238-250°; uv (H2O) 276 nm (ε6,600) and 226 (ε21,900); [α]D25 -15.3° (c, 0.4, H2O); IR (KBr) 1600, 1515, 1414, 1275, 1260, 1230, 1080, 1050, 1030, 993 810 cm-1. Anal calcd for C32H42O16.4H2O: C, 50.92; H, 6.68. Found: C, 50.70; H, 6.70.

reactant | pinoresinol | 1 mmol, 358 mg | COC=1C=C(C=CC1O)[C@@H]2[C@H]3CO[C@H]([C@H]3CO2)C=4C=CC(=C(C4)OC)O | C20H22O6
reactant | bromo glucose | 5.45 mmol, 2.24 g | BrC(=O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H11BrO6
solvent | quinoline | 6 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | pinoresinol diglucoside | 230 mg, 34% | COC1=C(C=CC(=C1)[C@@H]2[C@H]3CO[C@@H]([C@H]3CO2)C4=CC(=C(C=C4)O[C@H]5[C@@H]([C@H]([C@@H]([C@H](O5)CO)O)O)O)OC)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO)O)O)O | C32H42O16
